US07671080B2
1-Cyano-cyclopentanecarboxylic acid ethyl ester (2.00 g, 12.0 mmol) was dissolved in anhydrous tetrahydrofuran (5 ml) under nitrogen and lithium aluminium hydride (36 ml, 36 mmoles, 1.0M in THF) was added dropwise at 0° C. After stirring at room temperature for 24 h water was carefully added to the reaction and the product mixture extracted with ethyl acetate (3×50 ml). The organic layers were combined and washed with water (40 ml) and saturated sodium chloride solution (25 ml). The combined organic phases were dried over magnesium sulphate, filtered and evaporated under reduced pressure to give 1-hydroxymethyl-cyclopentanecarbonitrile (75 mg, 28%) as an oil which solidified on standing to give a waxy yellow solid.

reactant | 1-Cyano-cyclopentanecarboxylic acid ethyl ester | 12.0 mmol, 2.00 g | C(C)OC(=O)C1(CCCC1)C#N | C9H13NO2
reactant | lithium aluminium hydride | 36 mmoles, 1.0M, 36 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-hydroxymethyl-cyclopentanecarbonitrile | 75 mg, 28% | OCC1(CCCC1)C#N | C7H11NO
